US07601711B2
[2-(1,1-Dioxo-thiomorpholine-4-carbonyl)-1H-indol-5-yl]-(4-isopropyl-piperazin-1-yl)-methanone
To the solution of 0.20 g (0.57 mmol) 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid 1:1 hydrochloride in 2 mL N,N-dimethylformamide, 0.19 g (0.60 mmol) O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), 82 mg (0.60 mmol) thiomorpholine 1,1-dioxide (commercially available) and 0.58 mL (0.44 g, 3.4 mmol) N,N-diisopropylethylamine were added. After 1 h the solution was poured on saturated aqueous sodium bicarbonate solution, the phases were separated and the aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed three times with water followed by brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed twice on silica gel with dichloromethane:methanol:ammonia (12:1:0.1 v/v) as eluant to give 0.13 g (64%) of the desired compound as a light brown solid.

reactant | 5-(4-isopropyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid | 0.57 mmol, 0.20 g | C(C)(C)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C17H21N3O3
reactant | hydrochloride | Cl | ClH
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.60 mmol, 0.19 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | thiomorpholine 1,1-dioxide | 0.60 mmol, 82 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | N,N-diisopropylethylamine | 3.4 mmol, 0.58 mL, 0.44 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [2-(1,1-Dioxo-thiomorpholine-4-carbonyl)-1H-indol-5-yl]-(4-isopropyl-piperazin-1-yl)-methanone | 0.13 g, 64% | O=S1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C(C)C)=O | C21H28N4O4S
